US06352993B1
5-methyl-6-(N-t-butoxycarbonyl-glycyloxymetyl)-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine
1-hydroxybenzotriazole(26.8 mg, 0.198 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide(32.9 mg, 0.171 mmol), N-t-butoxycarbonylglycine(27.8 mg, 0.158 mmol) and triethylamine(23.9 μl 0.171 mmol) were added to a suspension of 5-methyl-6-hydroxymethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine(50 mg, 0.132 mmol) in anhydrous methylene chloride(1 ml). The reaction mixture was stirred for 1 day at room temperature, washed with water. The separated organic layer was concentrated and the residual oil was purified by a silica gel column chromatography (dichloromethane/methanol 20/1) to give the titled compound.

reactant | 1-hydroxybenzotriazole | 0.198 mmol, 26.8 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.171 mmol, 32.9 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | N-t-butoxycarbonylglycine | 0.158 mmol, 27.8 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | triethylamine | 0.171 mmol, 23.9 μl | C(C)N(CC)CC | C6H15N
reactant | 5-methyl-6-hydroxymethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 0.132 mmol, 50 mg | CC=1C(=NC(=NC1CO)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C | C22H23FN4O
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 5-methyl-6-(N-t-butoxycarbonyl-glycyloxymetyl)-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | CC=1C(=NC(=NC1COC(CNC(=O)OC(C)(C)C)=O)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C | C29H34FN5O4
